US07871999B2
A solution of 166 mg (0.62 mmol) of 1-Boc-3-(methyl(thiazol-2-yl)amino)azetidine in DCM (5 ml) was combined with 2.5 ml of TFA and stirred for 3 h at RT. The mixture was then evaporated under a vacuum. The residue was redissolved with water and washed with ether. The aqueous phase was adjusted to pH 11 with a 20% strength aq. NaOH soln. and saturated with common salt. The mixture was then extracted with chloroform and the organic phase was dried over MgSO4 and filtered. After removal of the solvents under a vacuum, 102 mg (0.60 mmol, 97%) of 3-(methyl(thiazol-2-yl)amino)azetidine were obtained.

reactant | 1-Boc-3-(methyl(thiazol-2-yl)amino)azetidine | 0.62 mmol, 166 mg | C(=O)(OC(C)(C)C)N1CC(C1)N(C=1SC=CN1)C | C12H19N3O2S
reactant | TFA | 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-(methyl(thiazol-2-yl)amino)azetidine | 0.60 mmol, 102 mg, 97% | CN(C1CNC1)C=1SC=CN1 | C7H11N3S
